US08008483B2
1-[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]-4-piperidinecarboxylic acid (163 mg, 0.65 mmol) was dissolved in 10 mL of dichloromethane and treated with EDCI (150 mg, 0.72 mmol), HOBt (88 mg, 0.65 mmol), N-methylmorpholine (0.2 mL, 1.5 mmol), and 4-(aminomethyl)-3-(trifluoromethyl)benzonitrile (130 mg, 0.65 mmol) at room temperature for 12 hours. The reaction mixture was concentrated and purified by preparative HPLC to provide N-{[4-cyano-2-(trifluoromethyl)phenyl]methyl}-1-[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]-4-piperidinecarboxamide (7 mg, 0.02 mmol, 2%) as a white solid. MS (ES+): m/e 434 [M+H]+.

reactant | 1-[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]-4-piperidinecarboxylic acid | 0.65 mmol, 163 mg | CC1=NC(=NC(=N1)NC)N1CCC(CC1)C(=O)O | C11H17N5O2
reactant | EDCI | 0.72 mmol, 150 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.65 mmol, 88 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 1.5 mmol, 0.2 mL | CN1CCOCC1 | C5H11NO
reactant | 4-(aminomethyl)-3-(trifluoromethyl)benzonitrile | 0.65 mmol, 130 mg | NCC1=C(C=C(C#N)C=C1)C(F)(F)F | C9H7F3N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-{[4-cyano-2-(trifluoromethyl)phenyl]methyl}-1-[4-methyl-6-(methylamino)-1,3,5-triazin-2-yl]-4-piperidinecarboxamide | 0.02 mmol, 7 mg, 2% | C(#N)C1=CC(=C(C=C1)CNC(=O)C1CCN(CC1)C1=NC(=NC(=N1)C)NC)C(F)(F)F | C20H22F3N7O
